US08067448B2
(R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxypropanoic acid
2-chloro-4-fluoro-3-methylbenzonitrile (500 mg, 2.95 mmol) was mixed together with H-D-Ser-OH (682 mg, 6.49 mmol) in DMSO (20 mL). K2CO3 (856 mg, 6.19 mmol) was added to the reaction mixture and stirred at 75° C. for 24 h. The reaction mixture was cooled to room temperature and poured slowly in to a 10% citric acid solution and stirred for 10 min at room temperature. The solution was extracted with EtOAc several times to get the crude product. The crude product was chromatographed with a gradient of hexanes/EtOAc and then with EtOAc, 100% to give the final product (220 mg): 1H NMR (500 MHz, DMSO-d6, δ in ppm) 7.47 (d, J=9 Hz, 1H), 6.57 (d, J=9 Hz, 1H), 6.13 (br s, 1H), 3.62 (m, 2H), 2.18 (s, 3H).

reactant | 2-chloro-4-fluoro-3-methylbenzonitrile | 2.95 mmol, 500 mg | ClC1=C(C#N)C=CC(=C1C)F | C8H5ClFN
reactant | H-D-Ser-OH | 6.49 mmol, 682 mg | N[C@H](CO)C(=O)O | C3H7NO3
reactant | K2CO3 | 6.19 mmol, 856 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (R)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxypropanoic acid | 220 mg | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)O)CO)C | C11H11ClN2O3
